US06869954B2
Preparation of 2-cyclopentylmethyl-4-dimethylaminomethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one
Following the procedure of Example 7, 2-cyclopentylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and dimethylamine were reacted to yield the title compound as a yellow oil (yield: 63.7%).

reactant | 2-cyclopentylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | C1(CCCC1)CN1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC(=C(C=C1)OC)F | C19H23FN2O5S
reactant | dimethylamine | CNC | C2H7N
product | 2-cyclopentylmethyl-4-dimethylaminomethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one | yield: 63.7% | C1(CCCC1)CN1N=C(C=C(C1=O)CN(C)C)C1=CC(=C(C=C1)OC)F | C20H26FN3O2
